US07625901B2
Step B. Methyl (5S)-5-[(tert-butylsulfinyl)amino]-5-(3,5-difluorophenyl)-2,2-dimethylhexanoate
To a solution of methyl (5E)-5-[(tert-butylsulfinyl)imino]-5-(3,5-difluorophenyl)-2,2-dimethylpentanoate (342 mg, 0.920 mmol) in CH2Cl2 (6 mL) at 0° C., was added dropwise over five minutes methyl magnesium bromide as a 3M solution in diethyl ether (0.61 mL, 1.83 mmol). After 15 minutes the reaction was determined to be complete by LCMS analysis. The reaction was quenched by the dropwise addition of 1M HCl (5 mL), followed by 5 mL of water. The aqueous layer was extracted once with CH2Cl2 (10 mL) and the organics were combined and washed once with brine (15 mL). The organics were dried over sodium sulfate, filtered and concentrated in vacuo to give a residue that was purified by silica gel chromatography, eluting with a gradient of EtOAc:Hexanes-10:90 to 55:45, to give the title compound. MS: m/z=390 (M+1).

reactant | methyl (5E)-5-[(tert-butylsulfinyl)imino]-5-(3,5-difluorophenyl)-2,2-dimethylpentanoate | 0.920 mmol, 342 mg | C(C)(C)(C)S(=O)\N=C(/CCC(C(=O)OC)(C)C)\C1=CC(=CC(=C1)F)F | C18H25F2NO3S
reactant | methyl magnesium bromide | C[Mg]Br
reactant | diethyl ether | 1.83 mmol, 0.61 mL | C(C)OCC | C4H10O
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
product | Methyl (5S)-5-[(tert-butylsulfinyl)amino]-5-(3,5-difluorophenyl)-2,2-dimethylhexanoate | C(C)(C)(C)S(=O)N[C@](CCC(C(=O)OC)(C)C)(C)C1=CC(=CC(=C1)F)F | C19H29F2NO3S
